US05618814
8-(N-benzyl-N-methyl-amino)-2-[4-(piperidino)-piperidin-1-yl]-4-morpholino-pyrimido [5,4-d]pyrimidine From 2-chloro-8-(N-benzyl-N-methyl-amino)-4-morpholino-pyrimido[5,4-d]pyrimidine and 4-piperidino-piperidine Yield: 54% of theory, Melting point: 106° C. C28H38N8O (502.67)

reactant | 8-(N-benzyl-N-methyl-amino)-2-[4-(piperidino)-piperidin-1-yl]-4-morpholino-pyrimido [5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C)C1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCC(CC2)N2CCCCC2 | C28H38N8O
reactant | 2-chloro-8-(N-benzyl-N-methyl-amino)-4-morpholino-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N(C)CC2=CC=CC=C2)N2CCOCC2 | C18H19ClN6O
product | 4-piperidino-piperidine | Yield: 54% | N1(CCCCC1)C1CCNCC1 | C10H20N2
